US07189741B2
B. Preparation of 2-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-nicotinic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.76 g (0.21 mmol) of 2-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-nicotinic acid ethyl ester and 0.04 g (0.25 mmol) of 3-chloromethyl-pyridine hydrochloride. After standard purification, 0.040 g (45% of yield) of the expected acid were obtained.

reactant | 2-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-nicotinic acid ethyl ester | 0.21 mmol, 0.76 g | C(C)OC(C1=C(N=CC=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C22H25N3O2
reactant | 3-chloromethyl-pyridine hydrochloride | 0.25 mmol, 0.04 g | Cl.ClCC=1C=NC=CC1
product | 2-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-nicotinic acid | N1=CC(=CC=C1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC1=C(C(=O)O)C=CC=N1 | C26H26N4O2
